US06083908
To a solution of (2E)-5-(tert-butyloxycarbonylamino)-5-methylhex-2-enoic acid (0.066 g, 0.27 mmol) in methylene chloride (5 ml) was added 1-hydroxy-7-azabenzotriazole (0.037 g, 0.27 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.052 g, 0.27 mmol) and the mixture was cooled to 0° C. Then (2R)-N-[(1R)-2-(N'-acetyl-N-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide (0.10 g, 0.22 mmol) and diisopropylethylamine (0.049 ml, 0.29 mmol) were added and the mixture was stirred at room temperature overnight. Then methylene chloride (50 ml) was added and the mixture was washed with water (10 ml), saturated sodium bicarbonate (10 ml), brine (10 ml), dried (MgSO4), filtered and concentrated in vacuo. The product was chromatographed on silica gel (40 g) with heptane:ethyl acetate (1:1) to give 0.10 g (66%) of ((3E)-4-[N-((1R)-1-(N-[(1R)-2-(N'-acetyl-N-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamoyl]-1,1-dimethylbut-3-enyl)carbamic acid tert-butyl ester as a colourless oil.

reactant | (2E)-5-(tert-butyloxycarbonylamino)-5-methylhex-2-enoic acid | 0.27 mmol, 0.066 g | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 0.27 mmol, 0.037 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.27 mmol, 0.052 g | Cl.C(C)N=C=NCCCN(C)C
reactant | (2R)-N-[(1R)-2-(N'-acetyl-N-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide | 0.22 mmol, 0.10 g | C(C)(=O)NN(C)C([C@@H](CC1=CC=CC=C1)N(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C)=O | C27H32N4O3
reactant | diisopropylethylamine | 0.29 mmol, 0.049 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | ((3E)-4-[N-((1R)-1-(N-[(1R)-2-(N'-acetyl-N-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamoyl]-1,1-dimethylbut-3-enyl)carbamic acid tert-butyl ester | 0.10 g, 66% | C(C)(C)(C)OC(NC(C\C=C\C(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](C(=O)N(NC(C)=O)C)CC1=CC=CC=C1)=O)=O)(C)C)=O | C39H51N5O6
